US04904660
(3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-(2-thiazolylthio)-2-butanol;
(3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-[(5-methyl-1,3,4-thiadiazol-2-yl)thio]-2-butanol; (3S0-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidinyl]amino]-1-(2-pyrimidinylthio)-2-butanol; (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-(1,2,3-thiadiazol-5-ylthio]-2-butanol; (3S)-cyclohexyl-3-[(N-[1,4-dioxy-2-(1-naphthylmethyl)-4-(3-thienyl)butyl]-L-histidyl]amino]-1-(1-methyl-5-tetrazolyl)-2-butanol; (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino)-2-(1-naphthyl)butyl]-L-histidyl]amino]-1-[(1-ethyl-5-tetrazolyl)thio]-2-butanol; (3S)-4-cyclohexyl-3-[(N-1,4-dioxo-4-morpholino)-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-[(1-methyl-5-tetrazolylsulfonyl] -2-butanol; and (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino)-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-nitro-2-butanol.

reactant | (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-[(5-methyl-1,3,4-thiadiazol-2-yl)thio]-2-butanol | C1(CCCCC1)C[C@@H](C(CSC=1SC(=NN1)C)O)NC([C@@H](NC(C(CC(N1CCOCC1)=O)CC1=CC=CC2=CC=CC=C12)=O)CC1=CNC=N1)=O | C38H49N7O5S2
reactant | (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-(1,2,3-thiadiazol-5-ylthio]-2-butanol | C1(CCCCC1)C[C@@H](C(CSC1=CN=NS1)O)NC([C@@H](NC(C(CC(N1CCOCC1)=O)CC1=CC=CC2=CC=CC=C12)=O)CC1=CNC=N1)=O | C37H47N7O5S2
reactant | 1-[(1-ethyl-5-tetrazolyl)thio]-2-butanol | C(C)N1N=NN=C1SCC(CC)O | C7H14N4OS
reactant | (1-methyl-5-tetrazolylsulfonyl] -2-butanol | CN1N=NN=C1S(=O)(=O)CC(CC)O | C6H12N4O3S
reactant | 1-nitro-2-butanol | [N+](=O)([O-])CC(CC)O | C4H9NO3
product | (3S)-4-cyclohexyl-3-[(N-[1,4-dioxo-4-morpholino-2-(1-naphthylmethyl)butyl]-L-histidyl]amino]-1-(2-thiazolylthio)-2-butanol | C1(CCCCC1)C[C@@H](C(CSC=1SC=CN1)O)NC([C@@H](NC(C(CC(N1CCOCC1)=O)CC1=CC=CC2=CC=CC=C12)=O)CC1=CNC=N1)=O | C38H48N6O5S2
